US07807712B2
2′-Hydroxy-4-methoxy-chalcone [9]
2-Hydroxy acetophenone, 3 (6 mL, 50 mmol), 4-methoxy benzaldehyde, 4 (6 mL, 50 mmol) and 50% aqueous sodium hydroxide (50 mL) in methanol (100 mL) were reacted as in 7 to yield 9. Yield 11.7 g (92%); mp 81-83° C. (lit. 93-94);227 MS (FAB) 255 (M++1); IR (KBr) 3450, 1639; 1H NMR (200 MHz, CDCl3) δ 7.92 (dd, J=8.7 Hz, 1.4 Hz, 1H), 7.90 (d, J=15.4 Hz, 1H), 7.62 (d, J=8.7 Hz, 2H), 7.53 (d, J=15.5 Hz, 1H), 7.49 (t, J=7.4 Hz, 1H), 6.95 (d, J=8.6 Hz, 2H), 7.03-6.89 (m, 2H), 3.86 (s, 3H).

reactant | 2-Hydroxy acetophenone | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | 4-methoxy benzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | sodium hydroxide | 50 mL | [OH-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | methanol | 100 mL | CO | CH4O
product | 2′-Hydroxy-4-methoxy-chalcone | OC1=C(C(C=CC2=CC=C(C=C2)OC)=O)C=CC=C1 | C16H14O3
